US08497264B2
A suspension of 7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-one (35 g, 107 mmol) in dry THF (210 mL) under nitrogen atmosphere was cooled to 0° C. and a solution of methylmagnesium bromide (3.0M solution in diethyl ether; 107 mL, 320 mmol) in dry THF (70 mL) was added over 10 minutes via an addition funnel. After complete addition a saturated aqueous solution of NH4Cl (125 mL) was added slowly to the stirring reaction mixture, keeping the internal temperature below 30° C. Water was added and the mixture was extracted twice with EtOAc. The combined organic layers were dried over sodium sulfate before concentrating under reduced pressure to afford 7-bromo-3-chloro-1-fluoro-5-methyl-5H-chromeno[2,3-c]pyridin-5-ol (34.33 g, 100 mmol).

reactant | 7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-one | 107 mmol, 35 g | BrC=1C=C2C(C3=C(C(=NC(=C3)Cl)F)OC2=CC1)=O | C12H4BrClFNO2
reactant | methylmagnesium bromide | 320 mmol, 3.0M, 107 mL | C[Mg]Br
reactant | NH4Cl | 125 mL | [NH4+].[Cl-]
reactant | Water | O | H2O
solvent | THF | 210 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 7-bromo-3-chloro-1-fluoro-5-methyl-5H-chromeno[2,3-c]pyridin-5-ol | 100 mmol, 34.33 g | BrC=1C=C2C(C3=C(C(=NC(=C3)Cl)F)OC2=CC1)(O)C | C13H8BrClFNO2
